US06277851B1
Step C: 2-[2-Cyanophenoxy]-N-ethylacetamide
N-hydroxysuccinimide (11 mmol) and N,N′-dicyclohexylcarbodiimide (11 mmol) are added to a solution of the compound described in preceding step (10 mmol) in dimethylformamide. After stirring 2 hours at room temperature, ethylamine (11 mmol) is added. After stirring overnight, the mixture is evaporated, filtered and taken up in ethyl acetate. The organic phase is washed with water and dried. The expected product is obtained after evaporation.

reactant | N-hydroxysuccinimide | 11 mmol | ON1C(CCC1=O)=O | C4H5NO3
reactant | N,N′-dicyclohexylcarbodiimide | 11 mmol | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | ethylamine | 11 mmol | C(C)N | C2H7N
reactant | dimethylformamide | CN(C=O)C | C3H7NO
product | 2-[2-Cyanophenoxy]-N-ethylacetamide | C(#N)C1=C(OCC(=O)NCC)C=CC=C1 | C11H12N2O2
